US04554068
This example describes the preparation of disodium carboxymethyl dithiocarbamate useful as a suspressant in ore flotation processes. To a 1-Liter round bottom flask fitted with a stirrer, thermometer, reflux condenser and a dropping funnel was added 253 milliliters of water and 84.0 grams (2.1 moles) of sodium hydroxide. After the NaOH had completely dissolved and the temperature had cooled below about 30° C., 75.0 grams (1.0 mole) of glycine was added and the mixture stirred until it was dissolved. Over the next 6 hours 76.14 grams (1.0 mole) of CS2 was slowly added while the temperature was maintained below about 40° C. The reaction product mixture was considered to be a 40 percent aqueous solution of disodium carboxymethyl dithiocarbamate and was used as prepared in the subsequent ore flotation processes. Similarly, disodium 1-carboxyethyl dithiocarbamate was prepared from α-alanine, CS2 and NaOH.

reactant | disodium carboxymethyl dithiocarbamate | C(N)(SCC(=O)O)=S.[Na].[Na]
reactant | sodium hydroxide | 2.1 moles, 84.0 grams | [OH-].[Na+]
reactant | glycine | 1.0 mole, 75.0 grams | NCC(=O)O | C2H5NO2
reactant | α-alanine | C[C@@H](C(=O)O)N | C3H7NO2
solvent | CS2 | C(=S)=S | CS2
solvent | water | 253 milliliters | O | H2O
solvent | CS2 | 1.0 mole, 76.14 grams | C(=S)=S | CS2
product | disodium 1-carboxyethyl dithiocarbamate | C(N)(SC(C)C(=O)O)=S.[Na].[Na] | InChI=1S/C4H7NO2S2.2Na/c1-2(3(6)7)9-4(5)8;;/h2H,1H3,(H2,5,8)(H,6,7);;
